datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C1CCC(P(C2CCCCC2)(C2CCCCC2)=[O+:21][H:20])CC1.CC(C)S(=O)[O-:10]>>C1CCC(P(C2CCCCC2)(C2CCCCC2)=[O:21])CC1.CC(C)S(=O)[O:10][H:20] 10=20;20,21=21",
"C/C(NO)=[N:10]/O.CCC(=O)c1cc(C(C)=O)n[n:21]1[H:20]>>C/C(NO)=[N+:10](/O)[H:20].CCC(=O)c1cc(C(C)=O)n[n-:21]1 10=20;20,21=21",
"Cc1cccc([NH3+])c1-c1c(C)cccc1[NH2+:21][H:20].c1cnc2c(c1)ccc1ccc[n:10]c12>>Cc1cccc([NH3+])c1-c1c(C)cccc1[NH2:21].c1cnc2c(c1)ccc1ccc[n+:10]([H:20])c12 10=20;20,21=21",
"Cc1n[nH]c2c([NH2+:21][H:20])cccc12.N#Cc1ccc(C(=O)[O-:10])cc1>>Cc1n[nH]c2c([NH2:21])cccc12.N#Cc1ccc(C(=O)[O:10][H:20])cc1 10=20;20,21=21",
"C[N:10](C)C1CCCCC1.C[Si](C)(C)OC1C[N+:21](Cc2ccc(F)cc2)([H:20])C1>>C[N+:10](C)(C1CCCCC1)[H:20].C[Si](C)(C)OC1C[N:21](Cc2ccc(F)cc2)C1 10=20;20,21=21",
"C#CCCC[NH2:10].CC(=O)N1C[C@@]2(C(C)C)OC(=O)C[C@H]2[C@@H]1C(=O)[O:21][H:20]>>C#CCCC[NH2+:10][H:20].CC(=O)N1C[C@@]2(C(C)C)OC(=O)C[C@H]2[C@@H]1C(=O)[O-:21] 10=20;20,21=21",
"C[N+:21](C)(CCNC(=O)/C=N/[O-])[H:20].OC[C@@H]1CC[N:10]2CC[C@H](O)[C@H]12>>C[N:21](C)CCNC(=O)/C=N/[O-].OC[C@@H]1CC[N+:10]2([H:20])CC[C@H](O)[C@H]12 10=20;20,21=21",
"C[N+:21]1([H:20])[C@@H]2CC[C@H]1C[C@H](OC(=O)C(CO)c1ccccc1)C2.C[N+](C)(C)CCc1ccccc1[O-:10]>>C[N+](C)(C)CCc1ccccc1[O:10][H:20].C[N:21]1[C@@H]2CC[C@H]1C[C@H](OC(=O)C(CO)c1ccccc1)C2 10=20;20,21=21",
"Cc1ccccc1[N+:21](C)(C)[H:20].O=[N+]([O-])c1ccc2[nH]c(C(F)(F)Cl)[n:10]c2c1>>Cc1ccccc1[N:21](C)C.O=[N+]([O-])c1ccc2[nH]c(C(F)(F)Cl)[n+:10]([H:20])c2c1 10=20;20,21=21",
"CC(N(C)C)=[O+:21][H:20].O=[N+]([O-])c1ccccc1C[NH2:10]>>CC(N(C)C)=[O:21].O=[N+]([O-])c1ccccc1C[NH2+:10][H:20] 10=20;20,21=21",
"CC[N+](CC)(CC)[O:21][H:20].Oc1cc[nH+]c([O-:10])c1>>CC[N+](CC)(CC)[O-:21].Oc1cc[nH+]c([O:10][H:20])c1 10=20;20,21=21",
"CC(C)NCCCCCC[NH:10]C(C)C.N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC(C)NCCCCCC[NH+:10](C(C)C)[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"C[NH+](C)CCCNc1c([N+](=O)[O-])c[n:10]c2ccccc12.c1ccc([NH+:21](C2CCCC2)[H:20])cc1>>C[NH+](C)CCCNc1c([N+](=O)[O-])c[n+:10]([H:20])c2ccccc12.c1ccc([NH:21]C2CCCC2)cc1 10=20;20,21=21",
"O=[N+]([O-])c1ccccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=[N+]([O-])c1ccccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1ccc(-c2oc(-c3ccc([NH3+])cc3)c[n:10]2)cc1.c1ccc(-c2cc[n+:21]([H:20])cc2)cc1>>COc1ccc(-c2oc(-c3ccc([NH3+])cc3)c[n+:10]2[H:20])cc1.c1ccc(-c2cc[n:21]cc2)cc1 10=20;20,21=21",
"C1C[NH:10]CCN1.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C1C[NH+:10]([H:20])CCN1.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC1=C(CC(C)[NH:10]CC(O)c2ccc(Cl)cc2)CCC1(C)C.O=[N+]([O-])c1ccc(S(=O)(=O)[NH:21][H:20])cc1>>CC1=C(CC(C)[NH+:10](CC(O)c2ccc(Cl)cc2)[H:20])CCC1(C)C.O=[N+]([O-])c1ccc(S(=O)(=O)[NH-:21])cc1 10=20;20,21=21",
"CC(C)(C)c1ccc(C2=C([O-:10])C2=O)cc1.COc1cc(C(=O)[O:21][H:20])ccc1C>>CC(C)(C)c1ccc(C2=C([O:10][H:20])C2=O)cc1.COc1cc(C(=O)[O-:21])ccc1C 10=20;20,21=21",
"C[N+:21]1([H:20])CC1.OCCNC(=S)[S-:10]>>C[N:21]1CC1.OCCNC(=S)[S:10][H:20] 10=20;20,21=21",
"CC[N:10](CC)CCNc1nc(C)cc(N)n1.Cc1cc([O-])[n+:21]([H:20])c2c1CCO2>>CC[N+:10](CC)(CCNc1nc(C)cc(N)n1)[H:20].Cc1cc([O-])[n:21]c2c1CCO2 10=20;20,21=21",
"CC(C)(O)C(C(=O)[O-:10])c1ccc(-c2ccccc2)cc1.CCCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O:21][H:20]>>CC(C)(O)C(C(=O)[O:10][H:20])c1ccc(-c2ccccc2)cc1.CCCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O-:21] 10=20;20,21=21",
"Cc1n(C)c2ccccc2[n:10]1.O=C(CCCc1ccccc1)[O:21][H:20]>>Cc1n(C)c2ccccc2[n+:10]1[H:20].O=C(CCCc1ccccc1)[O-:21] 10=20;20,21=21",
"CC(C)C1=CC2=CC[C@H]3[C@@](C)(CCC[C@]3(C)C(=O)[O:21][H:20])[C@@H]2CC1.CC[Si](C)(C)CC(=O)[O-:10]>>CC(C)C1=CC2=CC[C@H]3[C@@](C)(CCC[C@]3(C)C(=O)[O-:21])[C@@H]2CC1.CC[Si](C)(C)CC(=O)[O:10][H:20] 10=20;20,21=21",
"Oc1cccc(C(c2ccccc2)=[NH:10])c1.c1ccc2c([O:21][H:20])cncc2c1>>Oc1cccc(C(c2ccccc2)=[NH+:10][H:20])c1.c1ccc2c([O-:21])cncc2c1 10=20;20,21=21",
"CC(C)C[NH:10]CC(C)C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)C[NH+:10](CC(C)C)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"O=C([O-])/C=N/[O-:10].O=Cc1cccc([O:21][H:20])c1>>O=C([O-])/C=N/[O:10][H:20].O=Cc1cccc([O-:21])c1 10=20;20,21=21",
"C1CCC2(CC1)N1CCC[N:10]12.Cc1c(O)c2c(c[n+:21]1[H:20])COC2O>>C1CCC2(CC1)N1CCC[N+:10]12[H:20].Cc1c(O)c2c(c[n:21]1)COC2O 10=20;20,21=21",
"CC(=O)c1ccc([O-:10])c2ncccc12.c1c[nH]c(C[S:21][H:20])n1>>CC(=O)c1ccc([O:10][H:20])c2ncccc12.c1c[nH]c(C[S-:21])n1 10=20;20,21=21",
"CSSC(CCO)=C(C)N(C=O)Cc1c[n:10]c(C)nc1N.OCC1CC2CC[N+:21]1([H:20])CC2>>CSSC(CCO)=C(C)N(C=O)Cc1c[n+:10]([H:20])c(C)nc1N.OCC1CC2CC[N:21]1CC2 10=20;20,21=21",
"CCC[NH+](CCC)CC[S-:10].OCCCCCc1cc[n+:21]([H:20])cc1>>CCC[NH+](CCC)CC[S:10][H:20].OCCCCCc1cc[n:21]cc1 10=20;20,21=21",
"C[N+]1=CC=C(C(=O)[CH:21](C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)[H:20])C=C1.Clc1ccc(C(Nc2ccccc2)[O-:10])cc1>>C[N+]1=CC=C(C(=O)[CH-:21]C2=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C2)C=C1.Clc1ccc(C(Nc2ccccc2)[O:10][H:20])cc1 10=20;20,21=21",
"NC(Cc1ccccc1)=[N+:21](O)[H:20].Sc1cc2ccccc2[n:10]c1>>NC(Cc1ccccc1)=[N:21]O.Sc1cc2ccccc2[n+:10]([H:20])c1 10=20;20,21=21",
